### PR TITLE
[Merged by Bors] - feat: port Analysis.NormedSpace.Multilinear

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
Porting notes:
* Some declarations are slow and need extra heartbeats
* Needed to `simp` often before applying `mkContinuous_norm_le`, otherwise Lean wouldn't find the argument `H` automatically.
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by pechersky** [comment]
Two questions that I was also faced with:
why do we have to increase heartbeats?
why does `open Set` not work to make referring to things like `preimage` work without having to do `Set.preimage`?

File: Mathlib/Analysis/NormedSpace/Multilinear.lean [hunk 1]
```diff
@@ -0,0 +1,1993 @@
...
+  exact MultilinearMap.mkPiRing_eq_iff
+#align continuous_multilinear_map.mk_pi_field_eq_iff ContinuousMultilinearMap.mkPiField_eq_iff
+
+theorem mkPiField_zero : ContinuousMultilinearMap.mkPiField 𝕜 ι (0 : G) = 0 := by
+  ext; rw [mkPiField_apply, smul_zero, ContinuousMultilinearMap.zero_apply]
+#align continuous_multilinear_map.mk_pi_field_zero ContinuousMultilinearMap.mkPiField_zero
+
+theorem mkPiField_eq_zero_iff (z : G) : ContinuousMultilinearMap.mkPiField 𝕜 ι z = 0 ↔ z = 0 := by
+  rw [← mkPiField_zero, mkPiField_eq_iff]
+#align continuous_multilinear_map.mk_pi_field_eq_zero_iff
```
Comment (Parcly-Taxel) [inline Mathlib/Analysis/NormedSpace/Multilinear.lean:950]: Please wait. I'm cleaning up the file.

**Review by Parcly-Taxel — CHANGES_REQUESTED** [review]

**Review by Parcly-Taxel — APPROVED** [review]

**Comment by semorrison** [comment]
bors merge
